US08466176B2
To a stirred suspension of sodium hydride (60%, 0.176 g, 4.41 mmol) in DMF (dimethyl-formamide) (5 mL), cooled to 0° C. with a brine/ice bath, under argon atmosphere, was added a solution of N-(6-methylpyridin-2-yl)formamide (500 mg, 3.67 mmol) in DMF (10 mL). The mixture was stirred 5 minutes at 0° C. then 1-iodo-2exaneane (0.86 g, 4.04 mmol) was added. After stirring at room temperature for 48 hrs, the reaction mixture was concentrated and diluted with ethyl acetate (20 mL) and water (50 mL). The aqueous phase was extracted with ethyl acetate (20 mL). The combined organics were dried over MgSO4, filtered and concentrated in vacuo. Purification on silica gel afforded N-hexyl-N-(6-methylpyridin-2-yl)formamide as an oil [0.700 g, yield 77%; HPLC/MS: m/z=221 (M+H); logP(HCOOH)=3.46].

reactant | sodium hydride | 4.41 mmol, 0.176 g | [H-].[Na+]
reactant | N-(6-methylpyridin-2-yl)formamide | 3.67 mmol, 500 mg | CC1=CC=CC(=N1)NC=O | C7H8N2O
solvent | DMF | 5 mL | CN(C=O)C | C3H7NO
solvent | DMF | 10 mL | CN(C=O)C | C3H7NO
product | N-hexyl-N-(6-methylpyridin-2-yl)formamide | yield 77% | C(CCCCC)N(C=O)C1=NC(=CC=C1)C | C13H20N2O
